US06114572
Stir a mixture of trimethylhydroquinone (15.2 g, 0.1 mol), triethylamine (25.3 g, 0.25 mol) and ether (500 mL) in an ice bath. Slowly add acetylchloride (19.6 g, 0.25 mol) with stirring, allow the reaction to warm to room temperature for an hour, then dilute with water and the separate the layers. Evaporate the ether layer to dryness. Dissolve the resulting diacetate in methanol (300 mL). Add strong ammonium hydroxide (11 mL) and stir the mixture at room temperature overnight. Distill off the solvents under reduced pressure and dissolve the residue in ether. Wash the ether layer with water and evaporate to dryness. Recrystallization from hexane-ether yields 4-acetoxy-2,3,5-trimethylphenol (16.7 g, m.p.=106-107° C.).

reactant | trimethylhydroquinone | 0.1 mol, 15.2 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | triethylamine | 0.25 mol, 25.3 g | C(C)N(CC)CC | C6H15N
reactant | ether | 500 mL | CCOCC | C4H10O
reactant | acetylchloride | 0.25 mol, 19.6 g | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 4-acetoxy-2,3,5-trimethylphenol | 16.7 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)C)C | C11H14O3
